US06410728B1
2-(((5R)-2-oxo-1,3-oxazolidin-5-yl)methyl)-1H-isoindole-1,3(2H)-dione
A solution of Example IA (22.16 g) in DMF (163 mL) at room temperature was treated with potassium phthalimide (16.7 g), heated to 80° C., stirred for 5 hours, poured into 1:1 brine/water (200 mL), and extracted with dichloromethane. The extract was dried (MgSO4), filtered, and concentrated. The concentrate was treated with ethyl acetate (200 mL), cooled to 5° C., and filtered. The mother liquor was concentrated, treated with ethyl acetate (100 mL), cooled to 5° C., filtered, and combined with the first crop to provide the desired product. MS (ESI(+)) m/e 247 (M+H)+; 1H NMR (300 MHz, CDCl3) δ 7.88 (m, 2H), 7.75 (m, 2H), 4.98 (m, 1H), 4.10 (dd, 1H), 3.90 (dd, 1H), 3.73 (t, 1H), 3.49 (dd, 1H).

reactant | potassium phthalimide | 16.7 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | brine water | 200 mL | [Cl-].[Na+].O.O
solvent | DMF | 163 mL | CN(C)C=O | C3H7NO
product | 2-(((5R)-2-oxo-1,3-oxazolidin-5-yl)methyl)-1H-isoindole-1,3(2H)-dione | O=C1O[C@H](CN1)CN1C(C2=CC=CC=C2C1=O)=O | C12H10N2O4
